US04478849
N-(2-[4-Carbomethoxyphenyl]-1-methylethyl)-2-hydroxy-2-(4-hydroxy-3-methylphenyl)ethanamine
N-(2-[4-Carbomethoxyphenyl]-1-methylethyl)-2-hydroxy-2-(4-hydroxy-3-hydroxymethylphenyl)ethanamine (3.0 g) was hydrogenated in a mixture of ethanol (200 ml) and chloroform (20 ml) at 1 atmosphere and room temperature in the presence of 5% palladium on charcoal (150 mg) until hydrogen uptake was complete. The catalyst was removed and the product was recrystallised as the hydrochloride from ethyl acetate as a 32.5:67.5 mixture of diastereoisomers, mp 103°-107° (2.0 g). τ(d6DMSO) 8.88 (3H, d, J=6 Hz), 7.90 (3H, s), 6.10-7.20 (7H, m), 6.20 (3H, s), 5.02 (1H, m), 2.70-3.30 (3H, m), 2.62 (2H, d, J=8 Hz), 2.10 (2H, d, J=8 Hz), 0.62 (1H, br).

reactant | N-(2-[4-Carbomethoxyphenyl]-1-methylethyl)-2-hydroxy-2-(4-hydroxy-3-hydroxymethylphenyl)ethanamine | 3.0 g | C(=O)(OC)C1=CC=C(C=C1)CC(C)NCC(C1=CC(=C(C=C1)O)CO)O | C20H25NO5
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | palladium on charcoal | 150 mg | [Pd] | Pd
product | N-(2-[4-Carbomethoxyphenyl]-1-methylethyl)-2-hydroxy-2-(4-hydroxy-3-methylphenyl)ethanamine | C(=O)(OC)C1=CC=C(C=C1)CC(C)NCC(C1=CC(=C(C=C1)O)C)O | C20H25NO4
